US06995263B2
a] [4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetonitrile
In analogy to the procedure described in example 8 b], 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine (example 3 d]) was reacted with sodium cyanide to give the title compound as white crystals.

reactant | 5-chloromethyl-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C15H12ClF3N2
reactant | sodium cyanide | [C-]#N.[Na+]
product | [4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetonitrile | C1(CC1)C1=NC(=NC=C1CC#N)C1=CC=C(C=C1)C(F)(F)F | C16H12F3N3
